US08258144B2
1-(2-(1H-indazol-6-ylamino)-4-(cyclopropylamino)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)ethanone
A mixture of 1-(2-chloro-4-(cyclopropylamino)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)ethanone (85 mg, 0.21 mmol), 6-aminoindazole (56 mg, 0.42 mmol) and TMSCl (0.070 mL, 0.55 mmol) in nBuOH (3 mL) was stirred at 116° C. for 18 h. It was then concentrated in vacuo. The residue was purified by HPLC to give the titled compound (30 mg). MS 348.1 (M+H); UV 248.7, 305.7 nm.

reactant | 1-(2-chloro-4-(cyclopropylamino)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-5-yl)ethanone | 0.21 mmol, 85 mg | ClC=1N=C(C2=C(N1)N(C=C2C(C)=O)S(=O)(=O)C2=CC=C(C)C=C2)NC2CC2 | C18H17ClN4O3S
reactant | 6-aminoindazole | 0.42 mmol, 56 mg | NC1=CC=C2C=NNC2=C1 | C7H7N3
reactant | TMSCl | 0.55 mmol, 0.070 mL | C[Si](C)(C)Cl | C3H9ClSi
solvent | nBuOH | 3 mL | C(CCC)O | C4H10O
product | 1-(2-(1H-indazol-6-ylamino)-4-(cyclopropylamino)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)ethanone | 30 mg | N1N=CC2=CC=C(C=C12)NC=1N=C(C2=C(N1)NC=C2C(C)=O)NC2CC2 | C18H17N7O
